US06914074B2
1,5-Dichloro-6-methoxy-2-naphthyl trifluoromethanesulfonate
The title compound was prepared by reacting 1,5-dichloro-6-methoxy-2-naphthol (0.27 g, 1.11 mmol) with trifluoromethanesulfonic anhydride (0.41 g, 1.44 mmol) according to intermediate 6 to yield 0.37 g (89%) of a white solid: mp 73-78° C.; 1H NMR (CDCl3): δ 4.08 (3H, s), 7.48-7.52 (2H, m), 8.24-8.30 (2H, m); MS (EI) m/z 374/376/378 (M)+.

reactant | 1,5-dichloro-6-methoxy-2-naphthol | 1.11 mmol, 0.27 g | ClC1=C(C=CC2=C(C(=CC=C12)OC)Cl)O | C11H8Cl2O2
reactant | trifluoromethanesulfonic anhydride | 1.44 mmol, 0.41 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 1,5-Dichloro-6-methoxy-2-naphthyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C2=CC=C(C(=C2C=C1)Cl)OC)Cl)(F)F | C12H7Cl2F3O4S
